US06531491B1
6-(1-Phenyl-vinyl)-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole (16.2 mg, 0.0358 mmol) was dissolved in THF (0.6 mL) and was treated with tetrabutylammonium fluoride (TBAF, 1M in THF, 0.6 mL). The mixture was heated to 60° C. under argon for 4 h. The mix was cooled, neutralized with excess saturated sodium bicarbonate and the organic material was extracted into ethyl acetate and concentrated. This mix of 3 compounds (by TLC visualization) was treated with THF-water-TFA (1:1:2, 4 mL) for 30 min. The mix was diluted with toluene (20 mL), concentrated, neutralized with excess saturated sodium bicarbonate, and the organic material was extracted into ethyl acetate. The organic material was dried over sodium sulfate, decanted and concentrated. Purification by silica gel chromatography (2:8 ethyl acetate-hexane) gave 6-(1-Phenyl-vinyl)-3-styryl-1H-indazole (4.6 mg, 40%): Rf sm 0.62, p 0.24 (ethyl acetate-hexane 3:7); 1H NMR (300 MHz, CDCl3) δ 7.99 (d, 1H, J=8.5 Hz), 7.60-7.25 (m, 14H), 5.58 (d, 1H, J=1.1 Hz), 5.56 (d, 1H, J=1.1 Hz); HRMS (FAB) [m+H]/z Calc'd 323.1548, Found 323.1545.

reactant | 6-(1-Phenyl-vinyl)-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole | 0.0358 mmol, 16.2 mg | C1(=CC=CC=C1)C(=C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C29H32N2OSi
reactant | tetrabutylammonium fluoride | 1M, 0.6 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
product | 6-(1-Phenyl-vinyl)-3-styryl-1H-indazole | 4.6 mg, 40% | C1(=CC=CC=C1)C(=C)C1=CC=C2C(=NNC2=C1)C=CC1=CC=CC=C1 | C23H18N2
